US07368578B2
A mixture of 2-[3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-4-(hydroxymethyl)-1H-pyrazol-1-yl]ethanol (0.63 g), activated manganese dioxide (1.5 g) and tetrahydrofuran (100 mL) was stirred at room temperature for 15 hrs. Manganese dioxide was removed by filtration and the filtrate was concentrated. The obtained crystals were collected by filtration to give 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-(2-hydroxyethyl)-1H-pyrazole-4-carbaldehyde (0.61 g, yield 97%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 149-150° C.

reactant | 2-[3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-4-(hydroxymethyl)-1H-pyrazol-1-yl]ethanol | 0.63 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2CO)CCO)C=C1)OC)C | C23H25N3O7
catalyst | manganese dioxide | 1.5 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-(2-hydroxyethyl)-1H-pyrazole-4-carbaldehyde | 0.61 g, yield 97% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)CCO)C=C1)OC)C | C23H23N3O7
